US06410585B1
5-{(2S)-2-({(2R)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3,4-dimethoxyphenethyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and 3,4-dimethoxyphenethylamine (52 mg, 0.29 mmol) according to Method C with HPLC purification to give the title compound (12 mg). 1H-NMR (400 MHz, CD3OD) δ 1.38 (s, 9H) 2.68 (t, 2H) 2.72-3.09 (m, 4H) 3.29-3.44 (m, 2H) 3.80 (s, 3H) 3.85 (s, 3H) 4.25 (m, 1H) 4.52 (m, 1H) 4.79 (s, 2H) 6.74 (d, 1H) 6.84 (s, 1H) 6.87 (d, 1H) 7.06 (d, 1H) 7.17-7.38 (m, 6H) 7.73 (s, 1H); HRMS m/z 693.2904 (calc of monoisotopic mass for C36H43N3O11 gives 693.2898).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3,4-dimethoxyphenethylamine | 0.29 mmol, 52 mg | COC=1C=C(CCN)C=CC1OC | C10H15NO2
product | 5-{(2S)-2-({(2R)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3,4-dimethoxyphenethyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 12 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCC1=CC(=C(C=C1)OC)OC)CC1=CC=CC=C1 | C36H43N3O11
